** sch_path: /home/ducluong/test/CS_DAC_10b.sch
.subckt CS_DAC_10b CLK OUTN OUTP VBIAS VDD VSS X1 X10 X2 X3 X4 X5 X6 X7 X8 X9
*.PININFO X9:I X8:I X7:I X6:I X5:I X4:I X3:I X2:I X10:I X1:I VSS:B VDD:I VBIAS:I OUTP:B OUTN:B CLK:I
x1 net8 net9 net10 net11 net12 net13 net14 CLK net1 net2 net3 net4 net5 net6 net7 OUTN OUTP VBIAS VDD VSS 6MSB
x3 net8 net9 net10 net11 net12 net13 net14 X5 X6 X7 VDD VSS thermo_decoder
x5 net1 net2 net3 net4 net5 net6 net7 X8 X9 X10 VDD VSS thermo_decoder
x2 CLK OUTP OUTN VBIAS VDD VSS X1 X2 X3 X4 4LSB_weighted
.ends

* expanding   symbol:  6MSB.sym # of pins=20
** sym_path: /home/ducluong/test/6MSB.sym
** sch_path: /home/ducluong/test/6MSB.sch
.subckt 6MSB C1 C2 C3 C4 C5 C6 C7 CLK D1 D2 D3 D4 D5 D6 D7 OUTN OUTP VBIAS VDD VSS
*.PININFO VSS:B VDD:I VBIAS:I OUTP:B OUTN:B D7:I D6:I D5:I D4:I D3:I D2:I D1:I CLK:I C7:I C6:I C5:I C4:I C3:I C2:I C1:I
x33 CLK C1 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x1 CLK C2 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x2 CLK C3 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x3 CLK C4 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x4 CLK C5 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x5 CLK C6 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x6 CLK C7 OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x7 CLK VSS OUTN OUTP D1 VDD VBIAS VDD VSS Unit_cell
x8 CLK C1 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x9 CLK C2 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x10 CLK C3 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x11 CLK C4 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x12 CLK C5 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x13 CLK C6 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x14 CLK C7 OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x15 CLK VSS OUTN OUTP D2 D1 VBIAS VDD VSS Unit_cell
x16 CLK C1 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x17 CLK C2 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x18 CLK C3 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x19 CLK C4 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x20 CLK C5 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x21 CLK C6 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x22 CLK C7 OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x23 CLK VSS OUTN OUTP D3 D2 VBIAS VDD VSS Unit_cell
x24 CLK C1 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x25 CLK C2 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x26 CLK C3 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x27 CLK C4 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x28 CLK C5 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x29 CLK C6 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x30 CLK C7 OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x31 CLK VSS OUTN OUTP D4 D3 VBIAS VDD VSS Unit_cell
x32 CLK C1 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x34 CLK C2 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x35 CLK C3 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x36 CLK C4 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x37 CLK C5 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x38 CLK C6 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x39 CLK C7 OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x40 CLK VSS OUTN OUTP D5 D4 VBIAS VDD VSS Unit_cell
x41 CLK C1 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x42 CLK C2 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x43 CLK C3 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x44 CLK C4 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x45 CLK C5 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x46 CLK C6 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x47 CLK C7 OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x48 CLK VSS OUTN OUTP D6 D5 VBIAS VDD VSS Unit_cell
x49 CLK C1 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x50 CLK C2 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x51 CLK C3 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x52 CLK C4 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x53 CLK C5 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x54 CLK C6 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x55 CLK C7 OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x56 CLK VSS OUTN OUTP D7 D6 VBIAS VDD VSS Unit_cell
x57 CLK C1 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
x58 CLK C2 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
x59 CLK C3 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
x60 CLK C4 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
x61 CLK C5 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
x62 CLK C6 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
x63 CLK C7 OUTN OUTP VSS D7 VBIAS VDD VSS Unit_cell
.ends


* expanding   symbol:  thermo_decoder.sym # of pins=12
** sym_path: /home/ducluong/test/thermo_decoder.sym
** sch_path: /home/ducluong/test/thermo_decoder.sch
.subckt thermo_decoder D1 D2 D3 D4 D5 D6 D7 X0 X1 X2 VDD VSS
*.PININFO X2:I X1:I X0:I D7:O D6:O D5:O D4:O D3:O D1:O D2:O VDD:I VSS:I
x1 net3 X0 X1 VDD VSS sg13g2_and2_2
x2 D7 X2 net3 VDD VSS sg13g2_and2_2
x3 D6 X1 X2 VDD VSS sg13g2_and2_2
x4 D2 X2 X1 VDD VSS sg13g2_or2_2
x5 D1 D2 X0 VDD VSS sg13g2_or2_2
x6 net2 X0 X1 VDD VSS sg13g2_or2_2
x7 D5 X2 net2 VDD VSS sg13g2_and2_2
x8 net1 X0 X1 VDD VSS sg13g2_and2_2
x9 D3 net1 X2 VDD VSS sg13g2_or2_2
x10 D4 X2 VDD VSS sg13g2_buf_2
.ends


* expanding   symbol:  4LSB_weighted.sym # of pins=10
** sym_path: /home/ducluong/test/4LSB_weighted.sym
** sch_path: /home/ducluong/test/4LSB_weighted.sch
.subckt 4LSB_weighted CLK OUTN OUTP VBIAS VDD VSS X1 X2 X3 X4
*.PININFO X4:I X3:I X2:I X1:I VSS:B VDD:B VBIAS:I OUTP:B OUTN:B CLK:I
x9 net1 net5 OUTN OUTP VBIAS VSS CS_Switch_1x
x2 net2 net6 OUTN OUTP VBIAS VSS CS_Switch_2x
x5 net3 net7 OUTN OUTP VBIAS VSS CS_Switch_4x
x10 net4 net8 OUTN OUTP VBIAS VSS CS_Switch_8x
x7 net1 net5 CLK X1 VDD VDD VSS sg13g2_dfrbp_2
x8 net2 net6 CLK X2 VDD VDD VSS sg13g2_dfrbp_2
x11 net3 net7 CLK X3 VDD VDD VSS sg13g2_dfrbp_2
x12 net4 net8 CLK X4 VDD VDD VSS sg13g2_dfrbp_2
.ends


* expanding   symbol:  Unit_cell.sym # of pins=9
** sym_path: /home/ducluong/test/Unit_cell.sym
** sch_path: /home/ducluong/test/Unit_cell.sch
.subckt Unit_cell CLK Ci OUTN OUTP Ri Ri-1 VBIAS VDD VSS
*.PININFO VSS:B VDD:I VBIAS:I Ri-1:I Ri:I OUTP:B OUTN:B Ci:I CLK:I
x1 net3 net2 OUTN OUTP VBIAS VSS CS_Switch_16x
x2 net4 Ri Ci VDD VSS sg13g2_or2_2
x3 net1 Ri-1 net4 VDD VSS sg13g2_nand2_2
x4 net3 net2 CLK net1 VDD VDD VSS sg13g2_dfrbp_2
.ends


* expanding   symbol:  CS_Switch_1x.sym # of pins=6
** sym_path: /home/ducluong/test/CS_Switch_1x.sym
** sch_path: /home/ducluong/test/CS_Switch_1x.sch
.subckt CS_Switch_1x INN INP OUTN OUTP VBIAS VSS
*.PININFO VSS:B VBIAS:I OUTP:B OUTN:B INP:I INN:I
M7 net1 VBIAS net2 VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M5 net2 VBIAS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M6 OUTP INP net1 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M2 OUTP INP net1 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M9 OUTN INN net1 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M11 OUTN INN net1 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M3 net1 VSS VSS VSS sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
M4 net1 VSS VSS VSS sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
M1 net1 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M8 VSS VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M10 net2 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M12 net2 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
.ends


* expanding   symbol:  CS_Switch_2x.sym # of pins=6
** sym_path: /home/ducluong/test/CS_Switch_2x.sym
** sch_path: /home/ducluong/test/CS_Switch_2x.sch
.subckt CS_Switch_2x INN INP OUTN OUTP VBIAS VSS
*.PININFO VSS:B VBIAS:I OUTP:B OUTN:B INP:I INN:I
M7 net2 VBIAS net1 VSS sg13_hv_nmos w=0.6u l=0.45u ng=1 m=1
M5 net1 VBIAS VSS VSS sg13_hv_nmos w=0.6u l=0.45u ng=1 m=1
M6 OUTP INP net2 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M2 OUTP INP net2 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M9 OUTN INN net2 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M11 OUTN INN net2 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M3 net2 VSS VSS VSS sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
M4 net2 VSS VSS VSS sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
M10 net1 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M1 net1 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M8 net1 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M12 net1 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
.ends


* expanding   symbol:  CS_Switch_4x.sym # of pins=6
** sym_path: /home/ducluong/test/CS_Switch_4x.sym
** sch_path: /home/ducluong/test/CS_Switch_4x.sch
.subckt CS_Switch_4x INN INP OUTN OUTP VBIAS VSS
*.PININFO VSS:B VBIAS:I OUTP:B OUTN:B INP:I INN:I
M1 OUTP INP net1 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M2 OUTP INP net1 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M3 OUTN INN net1 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M4 OUTN INN net1 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M7 net1 VBIAS net2 VSS sg13_hv_nmos w=1.2u l=0.45u ng=4 m=1
M5 net2 VBIAS VSS VSS sg13_hv_nmos w=1.2u l=0.45u ng=4 m=1
M6 net1 VSS VSS VSS sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
M8 net1 VSS VSS VSS sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
M9 VSS VSS net2 VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M10 net2 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M11 VSS VSS net2 VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M12 net2 VSS VSS VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
.ends


* expanding   symbol:  CS_Switch_8x.sym # of pins=6
** sym_path: /home/ducluong/test/CS_Switch_8x.sym
** sch_path: /home/ducluong/test/CS_Switch_8x.sch
.subckt CS_Switch_8x INN INP OUTN OUTP VBIAS VSS
*.PININFO VSS:B VBIAS:I OUTP:B OUTN:B INP:I INN:I
M1 OUTP INP net1 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M2 OUTP INP net1 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M3 OUTN INN net1 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M4 OUTN INN net1 VSS sg13_lv_nmos w=1u l=0.13u ng=2 m=1
M7 net1 VBIAS net2 VSS sg13_hv_nmos w=2.4u l=0.48u ng=4 m=1
M5 net2 VBIAS VSS VSS sg13_hv_nmos w=2.4u l=0.48u ng=4 m=1
M6 VSS VSS net2 VSS sg13_hv_nmos w=0.6u l=0.45u ng=1 m=1
M8 net2 VSS VSS VSS sg13_hv_nmos w=0.6u l=0.45u ng=1 m=1
M9 VSS VSS net2 VSS sg13_hv_nmos w=0.6u l=0.45u ng=1 m=1
M10 net2 VSS VSS VSS sg13_hv_nmos w=0.6u l=0.45u ng=1 m=1
M11 net1 VSS VSS VSS sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
M12 net1 VSS VSS VSS sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  CS_Switch_16x.sym # of pins=6
** sym_path: /home/ducluong/test/CS_Switch_16x.sym
** sch_path: /home/ducluong/test/CS_Switch_16x.sch
.subckt CS_Switch_16x INN INP OUTN OUTP VBIAS VSS
*.PININFO VSS:B VBIAS:I OUTP:B OUTN:B INP:I INN:I
M1 OUTP INP net1 VSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
M2 OUTP INP net1 VSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
M3 OUTN INN net1 VSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
M4 OUTN INN net1 VSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
M7 net1 VBIAS net2 VSS sg13_hv_nmos w=5.2u l=0.45u ng=6 m=1
M5 net2 VBIAS VSS VSS sg13_hv_nmos w=5.2u l=0.45u ng=6 m=1
M6 net1 VSS VSS VSS sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
M8 net1 VSS VSS VSS sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
M9 net1 VSS VSS VSS sg13_hv_nmos w=0.65u l=0.45u ng=1 m=1
M10 VSS VSS VSS VSS sg13_hv_nmos w=0.65u l=0.45u ng=1 m=1
M11 net1 VSS VSS VSS sg13_hv_nmos w=0.65u l=0.45u ng=1 m=1
M12 VSS VSS VSS VSS sg13_hv_nmos w=0.65u l=0.45u ng=1 m=1
.ends

.SUBCKT sg13g2_dfrbp_2 Q Q_N CLK D RESET_B VDD VSS
*.PININFO CLK:I D:I RESET_B:I Q:O Q_N:O VDD:B VSS:B
MN13 net12 net2 VSS VSS sg13_lv_nmos m=1 w=420.00n l=130.00n ng=1
MN14 net5 clkneg net12 VSS sg13_lv_nmos m=1 w=420.00n l=130.00n ng=1
MN15 net2 net5 net11 VSS sg13_lv_nmos m=1 w=420.00n l=130.00n ng=1
MN16 net11 RESET_B VSS VSS sg13_lv_nmos m=1 w=420.00n l=130.00n ng=1
MN6 Q_N net5 VSS VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
MN0 Db D net10 VSS sg13_lv_nmos m=1 w=420.00n l=130.00n ng=1
MN1 net10 RESET_B VSS VSS sg13_lv_nmos m=1 w=420.00n l=130.00n ng=1
MN7 Db clkneg net6 VSS sg13_lv_nmos m=1 w=420.00n l=130.00n ng=1
MN8 net6 clkpos net9 VSS sg13_lv_nmos m=1 w=420.00n l=130.00n ng=1
MN9 net9 net4 net8 VSS sg13_lv_nmos m=1 w=420.00n l=130.00n ng=1
MN10 net8 RESET_B VSS VSS sg13_lv_nmos m=1 w=420.00n l=130.00n ng=1
MN11 net4 net6 VSS VSS sg13_lv_nmos m=1 w=740.00n l=130.00n ng=1
MN2 clkneg CLK VSS VSS sg13_lv_nmos m=1 w=740.00n l=130.00n ng=1
MN12 net4 clkpos net5 VSS sg13_lv_nmos m=1 w=740.00n l=130.00n ng=1
MN3 clkpos clkneg VSS VSS sg13_lv_nmos m=1 w=740.00n l=130.00n ng=1
MN4 Q net1 VSS VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
MN5 net1 net5 VSS VSS sg13_lv_nmos m=1 w=640.00n l=130.00n ng=1
MP14 net5 clkpos net3 VDD sg13_lv_pmos m=1 w=420.00n l=130.00n ng=1
MP15 net2 net5 VDD VDD sg13_lv_pmos m=1 w=420.00n l=130.00n ng=1
MP16 net2 RESET_B VDD VDD sg13_lv_pmos m=1 w=420.00n l=130.00n ng=1
MP6 Q_N net5 VDD VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MP7 Db clkpos net6 VDD sg13_lv_pmos m=1 w=420.00n l=130.00n ng=1
MP0 Db RESET_B VDD VDD sg13_lv_pmos m=1 w=420.00n l=130.00n ng=1
MP1 Db D VDD VDD sg13_lv_pmos m=1 w=420.00n l=130.00n ng=1
MP8 net7 net4 VDD VDD sg13_lv_pmos m=1 w=420.00n l=130.00n ng=1
MP9 net6 clkneg net7 VDD sg13_lv_pmos m=1 w=420.00n l=130.00n ng=1
MP10 net6 RESET_B VDD VDD sg13_lv_pmos m=1 w=420.00n l=130.00n ng=1
MP2 clkneg CLK VDD VDD sg13_lv_pmos m=1 w=1.12u l=130.00n ng=1
MP3 clkpos clkneg VDD VDD sg13_lv_pmos m=1 w=1.12u l=130.00n ng=1
MP11 net4 net6 VDD VDD sg13_lv_pmos m=1 w=1.000u l=130.00n ng=1
MP12 net4 clkneg net5 VDD sg13_lv_pmos m=1 w=1.000u l=130.00n ng=1
MP4 Q net1 VDD VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MP13 net3 net2 VDD VDD sg13_lv_pmos m=1 w=420.00n l=130.00n ng=1
MP5 net1 net5 VDD VDD sg13_lv_pmos m=1 w=1.000u l=130.00n ng=1
.ENDS

.SUBCKT sg13g2_nand2_2 Y A B VDD VSS
*.PININFO A:I B:I Y:O VDD:B VSS:B
MP1 Y B VDD VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MP0 Y A VDD VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MN1 net1 B VSS VSS sg13_lv_nmos m=1 w=1.44u l=130.00n ng=2
MN0 Y A net1 VSS sg13_lv_nmos m=1 w=1.44u l=130.00n ng=2
.ENDS

.SUBCKT sg13g2_or2_2 X A B VDD VSS
*.PININFO A:I B:I X:O VDD:B VSS:B
MP0 net2 B net3 VDD sg13_lv_pmos m=1 w=840.00n l=130.00n ng=1
MP1 net3 A VDD VDD sg13_lv_pmos m=1 w=840.00n l=130.00n ng=1
MP2 X net2 VDD VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MN0 net2 A VSS VSS sg13_lv_nmos m=1 w=550.00n l=130.00n ng=1
MN1 net2 B VSS VSS sg13_lv_nmos m=1 w=550.00n l=130.00n ng=1
MN2 X net2 VSS VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
.ENDS

.SUBCKT sg13g2_and2_2 X A B VDD VSS
*.PININFO A:I B:I X:O VDD:B VSS:B
MX0 net4 A net2 VSS sg13_lv_nmos m=1 w=640.00n l=130.00n ng=1
MX2 X net4 VSS VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
MX3 net2 B VSS VSS sg13_lv_nmos m=1 w=640.00n l=130.00n ng=1
MX1 net4 B VDD VDD sg13_lv_pmos m=1 w=840.00n l=130.00n ng=1
MX4 X net4 VDD VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MX5 net4 A VDD VDD sg13_lv_pmos m=1 w=840.00n l=130.00n ng=1
.ENDS

.SUBCKT sg13g2_buf_2 X A VDD VSS
*.PININFO A:I X:O VDD:B VSS:B
MN1 net1 A VSS VSS sg13_lv_nmos m=1 w=640.00n l=130.00n ng=1
MN0 X net1 VSS VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
MP1 X net1 VDD VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MP0 net1 A VDD VDD sg13_lv_pmos m=1 w=1.000u l=130.00n ng=1
.ENDS

.end
